US05607898
A 30-ml eggplant type flask was charged with 0.30 g (0.86 mmol) of 5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide, 25 ml of dichloromethane, 5 ml of water and 0.14 g (0.86 mmol, 1 equivalent) of potassium carbonate. While the mixture was stirred at room temperature, 0.14 g (0.95 mmol, 1.1 equivalents) of n-propanesulfonyl chloride was dropwise added. 5 mg of benzyltriethylammonium chloride (BTEAC) was added, and the mixture was allowed to react at the above temperature for 2 hours and then liquid-separated. An aqueous layer was extracted with dichloromethane. An organic layer was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate. The solvent was distilled off to give 0.2 g of a crude product, and the crude product was recrystallized from ethanol to give 0.18 g (yield 48%) of 5-methyl-6-(1-ethyl-5-n-propanesulfonyloxypyrazole-4-yl) carbonylthiochroman-1,1-dioxide (Compound No. 58).

reactant | 5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 0.86 mmol, 0.30 g | CC1=C2CCCS(C2=CC=C1C(=O)C=1C=NN(C1O)CC)(=O)=O | C16H18N2O4S
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
reactant | potassium carbonate | 0.86 mmol, 0.14 g, 1 equivalent | C([O-])([O-])=O.[K+].[K+]
reactant | n-propanesulfonyl chloride | 0.95 mmol, 0.14 g, 1.1 equivalents | C(CC)S(=O)(=O)Cl | C3H7ClO2S
catalyst | benzyltriethylammonium chloride | 5 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 5 ml | O | H2O
product | 5-methyl-6-(1-ethyl-5-n-propanesulfonyloxypyrazole-4-yl) carbonylthiochroman-1,1-dioxide | 0.18 g, yield 48% | CC1=C2CCCS(C2=CC=C1C(=O)C=1C=NN(C1OS(=O)(=O)CCC)CC)(=O)=O | C19H24N2O6S2
